US07781373B2
Preparation of N-(3,5-dichloro-2-hydroxy-4-methylphenyl)-3,5-dimethoxybenzamide
Into a 500 ml 3-necked round bottom flask, equipped with a stir bar, addition funnel, and N2 inlet, was placed 10 g (52 mmoles) of 6-amino-2,4-dichloro-3-methylphenol and 150 ml of ethyl acetate. With stirring a solution resulted. To this solution was added 4.53 g (57.2 mmoles) of pyridine. This solution was stirred for 5 minutes during which time 10.95 g (54.6 mmoles) of 3,5-dimethoxybenzoyl chloride (Aldrich Chemical Co., CAS RN 17213-57-9) was dissolved in 75 ml of ethyl acetate and placed in an addition funnel. This solution was added dropwise to the reaction vessel over a 30 minute period. A precipitate formed almost immediately. After complete addition the reaction mixture was allowed to stir overnight. Thin layer chromatography (5/95 acetone/CH2Cl2) analysis of the reaction mixture indicated no starting material and primarily one new spot and a spot at the origin. The reaction mixture was poured into a separatory funnel and washed 2 times with a cold 10% hydrochloric acid solution followed by 2 times with a saturated sodium chloride solution and the organic layer was dried over sodium sulfate. The sodium sulfate was collected on a gravity filter and the filtrate was concentrated to a salmon colored solid. This solid was recrystallized from refluxing ethanol. The resulting crystals were collected on a medium sintered glass funnel, and dried by sucking air through for three hours. 8.9 g of desired product was obtained, a 48% purified yield.

reactant | 6-amino-2,4-dichloro-3-methylphenol | 52 mmoles, 10 g | NC1=CC(=C(C(=C1O)Cl)C)Cl | C7H7Cl2NO
reactant | pyridine | 57.2 mmoles, 4.53 g | N1=CC=CC=C1 | C5H5N
reactant | 3,5-dimethoxybenzoyl chloride | 54.6 mmoles, 10.95 g | COC=1C=C(C(=O)Cl)C=C(C1)OC | C9H9ClO3
reactant | acetone CH2Cl2 | CC(=O)C.C(Cl)Cl
solvent | ethyl acetate | 75 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
product | N-(3,5-dichloro-2-hydroxy-4-methylphenyl)-3,5-dimethoxybenzamide | 8.9 g | ClC=1C(=C(C=C(C1C)Cl)NC(C1=CC(=CC(=C1)OC)OC)=O)O | C16H15Cl2NO4
